US04554276
6-(p-Chlorophenyl)hex-5-enoic acid (IV)
A solution of sodium dimsylate (prepared from 12.5 g of 50% sodium hydride and dry DMSO) was stirred at 30°-35° C. and 39.1 g (0.088 mole) of 5-triphenylphosphonium pentanoic acid bromide was added in portions. The resulting dark red solution was stirred at room temperature for 10 minutes, then a solution of 10.0 g (0.068 mole) of p-chlorobenzaldehyde in 20 ml of dry DMSO was added dropwise over 10 minutes (cooling was necessary to maintain 30°-35° C. temperature). The mixture was stirred at room temperature for 18 hours, then poured into 300 ml of water and acidified to pH 2 with 6N hydrochloric acid. The mixture was extracted twice with 500 ml portions of ethyl acetate. The combined ethyl acetate portions were extracted three times with 35 ml portions of sodium hydroxide. The combined sodium hydroxide extracts were brought to pH 3 with 6N hydrochloric acid, then reextracted with ethyl acetate. The combined ethyl acetate extracts were dried over magnesium sulfate, filtered, and evaporated leaving a semi-solid that was chromatographed over silica gel using 19:1 methylene chloride/methanol as eluent. The product, isolated in quantitative yield was contaminated with triphenyl-phosphine oxide, but was of sufficient purity to utilize in the next step.

reactant | sodium dimsylate | 12.5 g | CS(=O)[CH2-].[Na+]
reactant | p-chlorobenzaldehyde | 0.068 mole, 10.0 g | ClC1=CC=C(C=O)C=C1 | C7H5ClO
reactant | hydrochloric acid | 6N | Cl | ClH
reactant | triphenyl-phosphine oxide | C1(=CC=CC=C1)P(C1=CC=CC=C1)(C1=CC=CC=C1)=O | C18H15OP
solvent | DMSO | 20 ml | CS(=O)C | C2H6OS
solvent | water | 300 ml | O | H2O
product | 6-(p-Chlorophenyl)hex-5-enoic acid | quantitative yield | ClC1=CC=C(C=C1)C=CCCCC(=O)O | C12H13ClO2
